US04971993
Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysine dicyclohexylamine (3.01 g, 5 mmole), proline benzylester hydrochloride (1.21 g, 5 mmole) and HOBT (0.68 g, 5 mmole) were dissolved in methylene chloride (30 ml) and WSC hydrochloride (0.96 g, 5 mmole) was added thereto at -30° C. The mixture was stirred for 2 hours at less than 0° C., and then overnight at room temperature, and methylene chloride (70 ml) was added to the solution. The solution was washed with 5% aqueous sodium bicarbonate (100 ml, twice), 5% aqueous citric acid (100 ml, twice) and water (100 ml) in the order given, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester[(yield: 1.68 g. 55.3%).

reactant | Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysine dicyclohexylamine | 5 mmole, 3.01 g | C1(CCCCC1)NC1CCCCC1.C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O
reactant | proline benzylester hydrochloride | 5 mmole, 1.21 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBT | 5 mmole, 0.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 5 mmole, 0.96 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NS(=O)(=O)C1=CC=CC=C1)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C32H37N3O7S
